US04746655
1-Methyl-4-[(methylamino)methyl]-4-piperidinol oxalate [1:2].
A mixture of 46 g (0.23 mole) of 4-(aminomethyl)-1-methyl-4-piperidinol acetate [1:1] and 10.2 g (0.23 mole) of formamide was stirred at 160° C. until evolution of ammonia ceased (about 24 hr). The reaction mixture was dissolved in 150 ml of tetrahydrofuran and treated dropwise at reflux with 101 ml (1.01 mole) of 10M borane-methylsufide. Reflux was continued for 5.5 hr and the mixture was allowed to stand at room temperature over the weekend. Approximately 200 ml of methanol was added dropwise and the mixture was heated to reflux for 1 hr. Hydrogen chloride gas was bubbled into the mixture until a pH of <1 persisted. The mixture was heated to reflux for 3 hr and filtered. The filtrate was treated with 500 ml of dilute sodium hydroxide and extracted 4 times with ether. The aqueous layer was continuously extracted with chloroform for 24 hr. The chloroform was concentrated to give 22 g of residue. A 20 g sample was dissolved in 80 ml of ethanol. The resulting crystals were recrystallized from methanol-water to give 15 g of crystals, m.p. 197°-199° C.

reactant | 4-(aminomethyl)-1-methyl-4-piperidinol acetate | 0.23 mole, 46 g | C(C)(=O)OC1(CCN(CC1)C)CN | C9H18N2O2
reactant | formamide | 0.23 mole, 10.2 g | C(=O)N | CH3NO
reactant | ammonia | N | H3N
reactant | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-Methyl-4-[(methylamino)methyl]-4-piperidinol oxalate | 22 g | C(C(=O)O)(=O)O.CN1CCC(CC1)(O)CNC | InChI=1S/C8H18N2O.C2H2O4/c1-9-7-8(11)3-5-10(2)6-4-8;3-1(4)2(5)6/h9,11H,3-7H2,1-2H3;(H,3,4)(H,5,6)
